US06921759B2
N-(4-fluorobenzyl)-8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxamide
To a mixture of methyl-methanesulfonamide (1.06 g, 9.65 mmol), 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (1.21 g, 3.22 mmol), and Cu2O (0.46 g, 3.22 mmol) under an atmosphere of argon was added pyridine (25 mL) and the suspension was stirred at reflux for 16 hr. The reaction was allowed to cool to room temperature and the solvent evaporated in vacuo. The residue was treated with DMF (12 mL) and TFA (0.5 mL) and filtered to remove the solids. The filtrate was purified by reverse phase HPLC. (Waters PrePak 500 cartridge C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 75 mL/min over 45 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | methyl-methanesulfonamide | 9.65 mmol, 1.06 g | CCS(=O)(=O)N | C2H7NO2S
reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 3.22 mmol, 1.21 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-fluorobenzyl)-8-hydroxy-5-[methyl(methylsulfonyl)amino]-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N(S(=O)(=O)C)C)C=C1 | C18H17FN4O4S
